US07696195B2
(R)-2-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-1-(7-methyl-2-trifluoromethyl-1H-benzimidazol-5-ylmethyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 120 mg (0.16 mmol) (R)-1-(3,4-diamino-5-methyl-benzyl)-2-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate in 1 mL DMF was combined with 30 mg (0.26 mmol) trifluoroacetaldehyde and 3 drops of TFA and stirred for 2 h at 100° C. The residue was purified by HPLC, the fractions containing the product were combined and lyophilised.

reactant | (R)-1-(3,4-diamino-5-methyl-benzyl)-2-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.16 mmol, 120 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1CCN(CC1)C)CC1=CC(=C(C(=C1)C)N)N)C=CC=C2 | C35H50N8O4
reactant | trifluoroacetaldehyde | 0.26 mmol, 30 mg | FC(C=O)(F)F | C2HF3O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | TFA | 3 drops | C(=O)(C(F)(F)F)O | C2HF3O2
product | (R)-2-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-1-(7-methyl-2-trifluoromethyl-1H-benzimidazol-5-ylmethyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1CCN(CC1)C)CC1=CC3=C(NC(=N3)C(F)(F)F)C(=C1)C)C=CC=C2 | C37H47F3N8O4
